US07384967B2
(2-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-ethyl)-carbamic acid tert-butyl ester (202 mg, 40%) was prepared from 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (408 mg, 1 mmol) and (2-mercapto-ethyl)-carbamic acid tert-butyl ester (354 mg, 2 mmol) following the general procedure Q.

reactant | 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 1 mmol, 408 mg | BrC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C17H18BrN3O2S
reactant | (2-mercapto-ethyl)-carbamic acid tert-butyl ester | 2 mmol, 354 mg | C(C)(C)(C)OC(NCCS)=O | C7H15NO2S
product | (2-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-ylsulfanyl}-ethyl)-carbamic acid tert-butyl ester | 202 mg, 40% | C(C)(C)(C)OC(NCCSC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C24H32N4O4S2
